US07375113B2
1-Carbamoylmethyl-3-(β-D-glucopyranosyloxy)-4-[2-(4-{3-[2-hydroxy-1,1-bis(hydroxymethyl)ethylamino]propoxy}-phenyl)ethyl]-1H-indazole
A mixture of 3-(β-D-glucopyranosyloxy)-4-[2-(4-{3-[2-hydroxy-1,1-bis(hydroxymethyl)ethylamino]propoxy}phenyl) -ethyl]-1H-indazole (57 mg), 2-bromoacetoamide (41 mg), cesium carbonate (97 mg) and a catalytic amount of sodium iodide in N,N-dimethylformamide (1 mL) was stirred at room temperature overnight. To the reaction mixture was added water, and the resulting mixture was purified by solid phase extraction on ODS (washing solvent: distilled water, eluent: methanol) and preparative reverse phase column chromatography (Shiseido CAPCELL PAK UG120 ODS, 5 μm, 120 Å, 20×50 mm, flow rate 30 mL/minute linear gradient, water/methanol=90/10−10/90) successively to give the title compound (7 mg).

reactant | 3-(β-D-glucopyranosyloxy)-4-[2-(4-{3-[2-hydroxy-1,1-bis(hydroxymethyl)ethylamino]propoxy}phenyl) -ethyl]-1H-indazole | 57 mg | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=NNC2=CC=CC(=C12)CCC1=CC=C(C=C1)OCCCNC(CO)(CO)CO | C28H39N3O10
reactant | 2-bromoacetoamide | 41 mg | BrCC(=O)N | C2H4BrNO
reactant | cesium carbonate | 97 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium iodide | [I-].[Na+]
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-Carbamoylmethyl-3-(β-D-glucopyranosyloxy)-4-[2-(4-{3-[2-hydroxy-1,1-bis(hydroxymethyl)ethylamino]propoxy}-phenyl)ethyl]-1H-indazole | 7 mg | C(N)(=O)CN1N=C(C2=C(C=CC=C12)CCC1=CC=C(C=C1)OCCCNC(CO)(CO)CO)O[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C30H42N4O11
